US05436369
For 4-(1-Adamantyl)-3-methoxybenzaldehyde (3c): scale=3.51 mmol, yield=43%: The precursor aryl halide, 2-adamantyl-5-iodoanisole, was obtained in two steps from 3-iodophenol via the following procedure. 3-Iodophenol was treated with 1-adamantanol and sulfuric acid in methylene chloride following the general procedure of Shreet et al. U.S. Pat. No. 4,717,720, January 1988. This gave, without recrystallization, pure 2-adamantyl-5-iodophenol: scale=114 mmol, yield=91%; mp 142°-44° C.; 1H NMR (300 MHz, DMSO-d6) δ7.08 (d, J=2 Hz, 1H, ArH), 7.04 (dd, J=2, 8 Hz, 1H, ArH), 6.80 (d, J=8 Hz, 1H, ArH), 3.36 (s, 1H, OH), 1.99 (s, 9 H, adamantyl), and 1.68 (s, 6H, adamantyl); 13C NMR (75 MHz, CDCl3) δ157.26, 135.66, 128.32, 127.54, 124.50, 91.23, 39.61, 36.56, 36.12, and 28.32; IR (KBr) 3480 (OH), 2900, 2845, 1490, 1395, 1210, and 875 cm-1 ; MS (DCI) m/e 355 (MH+), 354 (M+), 353 (M--H)+, 135 (C10H15+). Anal. Calcd for C16H19OI: C, 54.25; H, 5.41. Found: C, 54.32; H, 5.37. A solution of 2-adamantyl-5-iodophenol (7.70 g, 21.7 mmol) in acetone (100 mL) was treated with dimethylsulfate (4.11 g, 32.6 mmol) and potassium carbonate (4.50 g, 32.6 mmol). The reaction mixture was stirred at reflux for 24 h, cooled, and concentrated in vacuo. The crude product was partitioned between methylene chloride and water. The organic phase was dried over anhydrous magnesium sulfate, filtered, and concentrated to provide 6.5 g (81%) of 2-adamantyl-5-iodoanisole; 1H NMR (300 MHz, CDCl3) δ7.22 (dd, J=2, 8 Hz, 1H, ArH), 7.10 (d, J=2 Hz, 1H, ArH), 6.89 (d, J=8 Hz, 1H, ArH), 3.79 (s, 3H, OCH3), 2.02 (s, 9H, adamantyl), and 1.73 (s, 6H, adamantyl); 13C NMR (75 MHz, CDCl3) δ159.35, 138.43, 129.63, 128.25, 120.75, 91.20, 55.22 (OCH3), 40.35, 37.02, 36.92, and 28.97; MS (DCI) m/e 369 (MH+), 368 (M+), 367 (M--H)+, 135 (C10H15+). Anal. Calcd for C17H21OI: C, 55.45; H, 5.75. Found: C, 55.51; H, 5.81. Reaction of 2-adamantyl-5-iodoanisole according to general procedure A gave 3c: 1H NMR (300 MHz, CDCl3) δ9.92 (s, 1H, CHO), 7.35-7.41 (m, 3H, ArH), 3.88 (s, 3H, OCH3), 2.08 (s, 9H, adamantyl), and 1.76 (s, 6H, adamantyl); 13C NMR (75 MHz, CDCl3) δ192.04 (C=O), 159.38, 146.00, 135.36, 127.06, 124.45, 109.54, 55.09 (OCH3), 40.15, 37.79, 36.95, and 28.90; IR (KBr) 2965, 2900, 2850, 1690 (C=O), 1250, 1160, 1135, 1035, and 1025 cm-1 ; MS (DCI) m/e 271(MH+), 135 (C10H15 +). Anal. Calcd for C18H22O2.0.02H2O: C, 79.86; H, 8.21. Found: C, 79.48; H, 8.34.

reactant | 3-Iodophenol | IC=1C=C(C=CC1)O | C6H5IO
reactant | 1-adamantanol | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-adamantyl-5-iodophenol | 21.7 mmol, 7.70 g | C12C(C3CC(CC(C1)C3)C2)C2=C(C=C(C=C2)I)O | C16H19IO
reactant | dimethylsulfate | 32.6 mmol, 4.11 g | COS(=O)(=O)OC | C2H6O4S
reactant | potassium carbonate | 32.6 mmol, 4.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 2-adamantyl-5-iodoanisole | 6.5 g, 81% | C12C(C3CC(CC(C1)C3)C2)C2=C(C=C(C=C2)I)OC | C17H21IO
